US05859009
3,3-Diethyl-1,5-dioxaspiro[5.5]undecan-9-ol
820 mg (21.5 mmol) of sodium borohydride were added to a solution of 13 g (57.4 nmol) of 3,3-diethyl-1,5-dioxaspiro[5.5]undecan-9-one in 200 ml of ethanol and the mixture was stirred at room temperature for 1 hour. To complete the reaction, the mixture was heated at 40° C. for a further 15 hours. To destroy excess sodium borohydride, approximately 5 ml of acetone were added to the reaction solution and stirring was continued at 40° C. for a further 30 minutes. The reaction solution was subsequently concentrated in vacuo and the product taken up in ether and washed using ammonium chloride solution and water. The organic phase was dried carefully over magnesium sulfate and subsequently evaporated to dryness. This gave 11.8 g (90.0%) of the desired cyclohexanol. The crude product was further reacted without further purification.

reactant | sodium borohydride | 21.5 mmol, 820 mg | [BH4-].[Na+]
reactant | 3,3-diethyl-1,5-dioxaspiro[5.5]undecan-9-one | 57.4 nmol, 13 g | C(C)C1(COC2(OC1)CCC(CC2)=O)CC | C13H22O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,3-Diethyl-1,5-dioxaspiro[5.5]undecan-9-ol | C(C)C1(COC2(OC1)CCC(CC2)O)CC | C13H24O3
